US20010023257A1
Synthesis of the endolexo-configured octahydro-4,7-methanoinden-5-yl-amine:
A solution of 15 g of tricyclo[5,2,1,02,6]decan-8-one in 60 ml of methanol, which had been saturated beforehand at 10° C. with NH3, was, after addition of Raney nickel, hydrogenated in an autoclave at 90° C. and a hydrogen pressure of 100 bar for 10 hours. The catalyst was filtered off and the solvent was distilled off under reduced pressure, and the mixture was then made strongly alkaline using 10 N NaOH and extracted 2-3 times with ethyl acetate or with diisopropyl ether. The combined organic phases were dried and subjected to fractional distillation under reduced pressure. Bp6-7mm 86-88° C.

reactant | tricyclo[5,2,1,02,6]decan-8-one | 15 g | C12C3CCCC3C(C(C1)=O)C2 | C10H14O
reactant | NH3 | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 60 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | octahydro-4,7-methanoinden-5-yl-amine | C1CCC2C3C(CC(C12)C3)N | C10H17N
